US08563575B2
A mixture of N2-[4-(benzyloxy)phenyl]pyridine-2,3-diamine (1.0 g), CDI (668 mg), and DBU (1.2 mL) in THF (25 mL) was heated at 60° C. overnight. After cooling to rt, the mixture was partitioned between AcOEt and H2O. The organic layer was washed with brine, dried over Na2SO4 and evaporated. The residue was purified by column chromatography (SiO2, hexane/AcOEt=97/3 to 9/1) to give 3-[4-(benzyloxy)phenyl]-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (993 mg) as a pale brown solid.

reactant | N2-[4-(benzyloxy)phenyl]pyridine-2,3-diamine | 1.0 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=NC=CC=C1N | C18H17N3O
reactant | CDI | 668 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | DBU | 1.2 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 3-[4-(benzyloxy)phenyl]-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 993 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C(NC=2C1=NC=CC2)=O | C19H15N3O2
